US05439928
4-[4-(4-fluorophenyl)-4-phenylbutyl]-1H-imidazole
A concentrated water solution of ammoniumformate (0,98 g, 15,6 mmol) is added dropwise to the boiling mixture of 1-benzyl-5-[4-(4-fluorophenyl)-4-phenylbutyl]-1H-imidazole (1,5 g, 3,9 mmol) and 10% Pd/C (0,156 g) in 16 ml of 50% ethanol. The mixture is refluxed for 2 hours. The catalyst is filtrated off and the solvent is evaporated. 2M NaOH is added and the product is extracted into ethyl acetate. The ethyl acetate phase is dried and evaporated to dryness to give the product. Yield 1,02 g. Melting point of the hydrochloride salt (from ethyl acetate) is 175°-182° C.

reactant | water | O | H2O
reactant | ammoniumformate | 15,6 mmol, 0,98 g | C(=O)[O-].[NH4+]
reactant | 1-benzyl-5-[4-(4-fluorophenyl)-4-phenylbutyl]-1H-imidazole | 3,9 mmol, 1,5 g | C(C1=CC=CC=C1)N1C=NC=C1CCCC(C1=CC=CC=C1)C1=CC=C(C=C1)F | C26H25FN2
solvent | ethanol | 16 ml | C(C)O | C2H6O
catalyst | Pd/C | 0,156 g | [Pd] | Pd
product | 4-[4-(4-fluorophenyl)-4-phenylbutyl]-1H-imidazole | FC1=CC=C(C=C1)C(CCCC=1N=CNC1)C1=CC=CC=C1 | C19H19FN2
